Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Dyspnea  
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o F w/PMHx CAD s/p CABG ___ (6 grafts), severe AS, CKD, 
DM, who presents for evaluation of dyspnea. 

Overnight admission team not able to obtain full history as 
patient has underlying dementia and family not available at 
bedside. Plan to discuss full HPI with family later this 
admission. 

Per ED notes, according to daughter, pt awoke with sudden-onset 
dyspnea. No associated chest pain. Pt was found to be dyspneic, 
tachypneic on arrival by EMS. She was given nitroglycerin and 
started on noninvasive ventilation by EMS.  
In the ED she was satting 100% on NRB, with H/H 10.___.5, 
Pro-BNP 3890, Trop <0.01 and Cr. 0.8.
CXR in ED showed mild pulmonary vascular contestion with 
increased opacity at the R lung base (concerning for pneumonia 
or aspiration) with cardiomegaly. 

Overnight, Ms. ___ was started on BiPAP and given 20 mg IV 
Furoseimde, SL Nitro 0.4 mg and 0.5 PO Lorazepam.  She was 
weaned off of BiPAP and on transfer to the floor BP was 151/64 
and she was satting 100% RA.

This AM, Ms. ___ is pleasant and cooperative, and in NAD.
She however is unable to state why she came into the hospital 
("I wanted to sit down but I couldn't get up" and oriented x1-2 
(self, ___. 
She denies SOB, CP or pain elsewhere.

Spoke with daughter ___ this AM who lives with the patient 
(as well as Daughter ___ and additional daughter at 
bedside.)
She states that she was sleeping and having "problems 
breathing." So they called the ambulance.
___ states she's been struggling with walking the last few 
days (x1 week), off and on, feels like her legs have been giving 
out.
States she's been out of breath and dizzy. States she is able to 

Gave IS at last hospitalization, was doing this every AM. 
Even in normal state of health, limited as far as walking ___ 
knee pain. ___ states that she doesn't walk with walker at 
home, needs walker or cane. Denies home O2 use in the past. 

Per ___, states patient is "always warm or cold" but denies 
fevers or chills. Denies recent cough. States she "always 
complains of pain in the chest;" per daughter this is a 
manifestation of her dementia and she states that Ms. ___ 
thinks the pain is related to her prior heart surgeries.

Per her daughters, the patient has trouble sleeping and it seems 
that her dementia has been a worsening issue over the past few 
months but deny more recent changes 

States that last meds from home nursing visit are up to date.  

Per ___ (and corroborated by daughters at bedside, no plan 
for any surgical interventions at this time ___ Alzheimer's and 
dementia, especially as the patient is not in such great health 
and didn't want; per ___ "She's tired and wants to finish her 
life" and their priority is to "make her as comfortable as 
possible." 
Son ___ and daughter ___ are ___, asked family to 
identify main contact person. 

Per ___ her dementia has been a significant issue; she's been 
more delusional lately, concerned about people in the house or 
people coming to "get her." (concern that she thinks that 
someone is coming to get her, getting knives, etc.) She denies 
the patient reporting dysuria, but does have occasional 
diarrhea. She states she did have a fall ~1 month ago, at that 
time was brought to the hospital/
Recent falls.

 
Past Medical History:
 1. CARDIAC RISK FACTORS  
 - Diabetes  
 - Hypertension  
 2. CARDIAC HISTORY  
 - CABG: 6x CABG in ___  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 - Severe AS  
 3. OTHER PAST MEDICAL HISTORY  
 - CKD  
 - Dementia  
 - Glaucoma  
 - Osteoporosis  
 
Social History:
___
Family History:
Per ___ Discharge Summary:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
================================= 
 VS: 98; 174/94; 77; 18; 100 RA  (03:20 AM)
BP 128/76  69 (05:00)
I/O: 60/1000 (08:00)  
GENERAL: WDWN F in NAD. Oriented x1-2 (self, ___. Very 
pleasant  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.   
NECK: Supple 
CARDIAC: RR, normal S1, S2. IV/VI crescendo/decrescendo murmur 
at LUSB. No thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. Bibasilar crackles in R 
lower lung field, lungs otherwise CTAB. No wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits. ___ 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas noted 
grossly on arms or legs. 

DISCHARGE PHYSICAL EXAM
=========================
 VS:  0720  97.9  131/66  91  18  97% RA
I 1280 / O BRP + 525
GENERAL: pleasant and cooperative, laying comfortably in bed in 
NAD.
HEENT: NCAT. EOMI grossly.   
NECK: Supple, no JVD appreciated
CARDIAC: RR, normal S1, S2. IV/VI crescendo/decrescendo murmur 
at LUSB.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. LCTAB, no crackles 
rales or rhonchi noted.  
ABDOMEN: Soft, NTND.  
EXTREMITIES: ___ warm and well perfused, moving all extremities 
purposefully
Neuro: alert, following commands, strength and sensation grossly 
intact in ___ bilaterally 
 
Pertinent Results:
PERTINENT IMAGING
==================
___ CXR:  
 IMPRESSION:  
 Mild pulmonary vascular congestion. Increased opacity at right 
lung base raises concern for pneumonia or aspiration. Persistent 
cardiomegaly.  

ADMISSION LABS
==============

___ 09:20PM BLOOD WBC-7.9 RBC-3.77* Hgb-10.9* Hct-34.5 
MCV-92 MCH-28.9 MCHC-31.6* RDW-13.8 RDWSD-45.8 Plt ___
___ 09:20PM BLOOD Glucose-238* UreaN-16 Creat-0.8 Na-139 
K-4.4 Cl-104 HCO3-23 AnGap-16
___ 09:20PM BLOOD Albumin-3.8 Calcium-8.2* Phos-2.6* Mg-1.8
___ 09:42PM BLOOD Lactate-1.4
___ 09:20PM BLOOD proBNP-3890*

INTERVAL LABS
=============

___ 06:48AM BLOOD WBC-7.0 RBC-3.75* Hgb-10.5* Hct-34.1 
MCV-91 MCH-28.0 MCHC-30.8* RDW-13.8 RDWSD-45.7 Plt ___
___ 06:48AM BLOOD ___ PTT-29.1 ___
___ 06:48AM BLOOD Glucose-97 UreaN-13 Creat-0.9 Na-146* 
K-3.5 Cl-105 HCO3-28 AnGap-17
___ 06:48AM BLOOD Calcium-8.4 Phos-2.4* Mg-1.8
___ 09:20PM BLOOD cTropnT-<0.01
___ 06:48AM BLOOD cTropnT-<0.01

MICROBIOLOGY
============
Blood cultures: Pending at discharge
Urine cultures: NG

LABS AT DISCHARGE
=================

___ 06:55AM BLOOD WBC-7.4 RBC-3.95 Hgb-11.2 Hct-35.6 MCV-90 
MCH-28.4 MCHC-31.5* RDW-13.8 RDWSD-45.4 Plt ___
___ 06:55AM BLOOD Glucose-48* UreaN-20 Creat-0.8 Na-142 
K-4.1 Cl-104 HCO3-25 AnGap-17
___ 06:55AM BLOOD Calcium-8.5 Phos-2.9 Mg-1.9
___ 10:15AM BLOOD TSH-0.25*
___ 10:15AM BLOOD VitB12-1053*
 
Brief Hospital Course:
Brief Hospital Course:
======================
___ y/o F w/PMHx CAD s/p CABG ___ (6 grafts), severe AS, CKD, 
DM, who presented for evaluation of dyspnea thought to be likely 
flash pulmonary edema in the setting of underlying severe AS 
(with unclear trigger), now on RA and improved after diuresis 
with 20 mg IV Lasix x2. On the day of discharge her respiratory 
status is much improved. Per discussion with family they were 
amenable to ___ work up and planning with further discussion as 
an outpatient. The patient was evaluated by Geriatrics who 
thought that due to her mild dementia and good baseline 
functional status (able to undertake ADLs but not able to make 
complex decisions) consideration of ___ was not unreasonable. 
The patient will follow up with Dr. ___ primary 
cardiologist with plan for repeat echocardiogram as an 
outpatient. She will be evaluated by the cardiac surgery team as 
an outpatient as well. She will also be referred to the ___ 
team clinic for planning of ___ procedure with plan for CT at 
that time for planning. 

# CORONARIES: CAD s/p CABG, grafts patent on ___ cath  
# PUMP: Severe AS  
# RHYTHM: NSR  

#Dyspnea: Likely flash pulmonary edema from CHF/AS. Pt currently 
on room air. She was started on low-dose Imdur for additional 
afterload reduction given AS, and diuresed gently with 20 mg IV 
Lasix x2 (and one dose of Imdur 30 mg) since admission. Per 
previous notes, initially no plan by family for operative 
intervention but after explaining ___ they are willing to 
consider as an option. At this time, patient's respiratory 
status has improved and she appears comfortable on RA. ___ and OT 
evaluation prior to discharge and recommending close outpatient 
follow up with PCP and cardiologist as per below.

#Dipso: had brief discussion with family ___ ___ and phone call 
with daughter ___ of ___, generally in agreement that no 
plan for surgical intervention at this time; however multiple 
discussions that patient is likely to have recurrent episodes 
related to severe AS if no surgical intervention is pursued with 
overall poor prognosis.  Patient's family not aware of ___ as 
surgical option but will consider outpatient follow up and will 
schedule ___ Cardiology/Surgery appointment so family can 
obtain more information about surgical options. If no plans for 
surgical management will recommend ongoing discussion with 
patient and family about expected outcome of severe aortic 
stenosis and recommend ongoing family discussion about goals of 
care/end of life planning.

#Irregular rhythm on EKG: Initially concern for irregular rhythm 
on admission EKG, on review of admission EKG no evidence of 
Afib. Telemetry d/ced overnight ___ patient agitation, no 
significant events noted on review of telemetry. 
 
#CAD: Patient followed by Dr. ___, last visit 
___ at that time patient scheduled for follow up with BI 
Surgery to discuss valve replacement surgery but did not attend 
appointment. Continued rosuvastatin and antihypertensives at 
that time. Continued home rosuvastatin, metoprolol (fractionated 
at this admission) and started on ASA 81 (unclear why patient 
not taking as this time).  Will recommend close cardiology 
outpatient follow up.
 
#HTN: HTN to 150s-170s systolic on admission,BPs in 120s-140s 
systolic overnight ___.  Continued home 
lisinopril/amlodipine  
 
#DM:  per last home ___ report patient taking sporadically, 
unclear if good compliance with home regimen; some concern that 
patient was continuing to administer her home insulin on her own 
per prior ___ notes. Recommend close follow up as an outpatient. 


#Dementia: Per PCP notes, at last  sleep issues improved with 
mirtazapine, but did not go into great detail with family but 
family raising concerns about her memory issues and paranoid 
behavior. Recommend continued discussion about dementia, goals 
of care at next PCP ___.

TRANSITIONAL ISSUES
===================
- patient was previously not on Aspirin as outpatient; this was 
started at this admission 81 mg daily
- per family, will continue to discuss ___ intervention and 
proceed with work up. 
- outpatient echocardiogram to be arranged by Dr. ___ 
- no need for repeat cath per ___ team
- patient to be seen by ___ team in clinic with CT for ___ 
planning
- Dr. ___ cardiac surgery to see patient in clinic

# CODE: Full (confirmed)
# CONTACT: ___ (Son) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 20 mg PO DAILY 
2. Glargine 30 Units Breakfast
3. Metoprolol Succinate XL 100 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. Rosuvastatin Calcium 40 mg PO QPM 
6. amLODIPine 5 mg PO DAILY 
7. Mirtazapine 15 mg PO QHS 
8. Ranitidine 300 mg PO QHS 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  Glargine 30 Units Breakfast 
3.  amLODIPine 5 mg PO DAILY  
4.  Furosemide 20 mg PO DAILY  
5.  Lisinopril 40 mg PO DAILY  
6.  Metoprolol Succinate XL 100 mg PO DAILY  
7.  Mirtazapine 15 mg PO QHS  
8.  Ranitidine 300 mg PO QHS  
9.  Rosuvastatin Calcium 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses
====================
severe aortic stenosis
acute pulmonary edema

Secondary Diagnoses
====================
CAD
DM
Dementia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You came into the hospital because you were having severe 
shortness of breath and difficulty breathing. We think that this 
was probably related to your severe Aortic Stenosis (heart valve 
narrowing.)
In the ED and in the hospital, we gave you medications to help 
remove fluid from your lungs and your breathing improved. 

You and your family had discussed having a valve surgery to fix 
this problem and decided that you would meet with our cardiac 
surgeons to discuss your options for fixing this aortic valve 
problem.
Please discuss this issue carefully with your outpatient 
Cardiologist and keep your appointment with the Cardiac Surgery 
and ___ teams. 

We have scheduled a few appointments with a cardiac surgery team 
as well as our cardiac specialists of the ___ team to help 
arrange further planning to fix your valve. You will be called 
with these appointments in the next few days. 

Please keep your follow up appointments with your cardiologists 
and your primary care doctor.

It was a pleasure taking care of you and we wish you the best in 
your recovery.

Sincerely,
Your ___ Medicine Team
 
Followup Instructions:
___